### ISSUE TITLE
BZMathlib feasibility analysis: scope inversion of monic_primitive_sign_normalized_of_monic cluster proof direction for content-1 and normalizeFactorSign inline blocks (deferred from #5040)

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#5050]
## Current state

Issue #5040's audit comment recorded a verdict-(c) finding for
`monic_primitive_sign_normalized_of_monic` at
`HexBerlekampZassenhausMathlib/Basic.lean:4473`:

- The 13-line `hcs_pos` inline block at `Basic.lean:4479-4491`
  derives `0 < factor.coeffs.size` from `hfactor_monic` and is
  rewireable onto `zpoly_size_pos_of_monic` after a partial hoist.
  This rewire is in flight as #5046 (depends on #5042, which has
  merged at `e5990830`).
- The remaining two inline blocks in the same theorem body —
  the content-1 case at `Basic.lean:4497-4509` and the
  `normalizeFactorSign` case at `Basic.lean:4510-4515` — are
  **not** hoist-rewireable onto the existing cluster helpers.
  `zpoly_primitive_of_monic` and
  `zpoly_normalize_factor_sign_of_monic` are defined as
  destructure-projection corollaries of the very theorem whose body
  we would be rewriting:

  ```
  theorem zpoly_primitive_of_monic h := (monic_primitive_sign_normalized_of_monic h).2.1
  theorem zpoly_normalize_factor_sign_of_monic h := (monic_primitive_sign_normalized_of_monic h).2.2
  ```

  Hoisting either above `monic_primitive_sign_normalized_of_monic`
  is structurally impossible without inverting the cluster's proof
  direction — i.e., moving the content-1 and normalizeFactorSign
  derivations into the helper bodies and rewriting
  `monic_primitive_sign_normalized_of_monic` to *call* them.

The #5040 audit comment explicitly deferred the inversion as out of
scope for a simple hoist + rewire cycle and recorded the verdict on
the issue but did not scope the inversion itself.

This issue is a **review / feasibility-analysis** task. Its goal is
to scope what the inversion would actually look like — what the
inverted cluster helpers' proof bodies would need to contain, what
their proof obligations would be, what bridge lemmas (if any) the
existing Hex.DensePoly / Hex.ZPoly substrate already exposes, and
whether the projected net diff is worth the structural change.
The output is a single audit comment plus an inline-drafted
follow-up feature issue body — **not** a code change.

## Deliverables

Post a single audit comment on this issue covering:

1. **Inverted-cluster proof bodies.** Sketch (in Lean-pseudocode,
   not committed code) the proof bodies the four cluster helpers
   would need under an inverted direction:

   - `zpoly_size_pos_of_monic` — already discharged via
     `Nat.eq_zero_or_pos` / `Array.back?_eq_getElem?` in its current
     body; should be unaffected by the inversion. Confirm.
   - `zpoly_lc_pos_of_monic` — currently a destructure or simple
     specialisation of `Monic`. Confirm its proof body is also
     independent of `monic_primitive_sign_normalized_of_monic`.
   - `zpoly_primitive_of_monic` — currently
     `(monic_primitive_sign_normalized_of_monic h).2.1`. The
     inverted body would need to re-derive
     `Hex.ZPoly.Primitive factor` (i.e., `Hex.ZPoly.content factor
     = 1`) from `Hex.DensePoly.Monic factor` without going through
     the umbrella theorem. List which substrate lemmas exposed by
     `Hex.DensePoly` or `Hex.ZPoly` discharge this directly (if
     any), or — if none does — sketch the minimal new substrate
     lemma that would be needed (preferred: existing API; failing
     that, a single-line specialisation in `HexPolyZ` or
     `HexBerlekampZassenhausMathlib/Basic.lean` itself, above the
     cluster).
   - `zpoly_normalize_factor_sign_of_monic` — currently
     `(monic_primitive_sign_normalized_of_monic h).2.2`. Symmetric
     analysis: what discharges
     `Hex.normalizeFactorSign factor = factor` from
     `Hex.DensePoly.Monic factor` directly?

2. **Inverted umbrella body.** Sketch what
   `monic_primitive_sign_normalized_of_monic`'s body looks like
   after inversion: the existing
   `⟨hne, hprim, hnorm⟩`-style anonymous constructor with each
   component replaced by a one-liner application of the new
   helpers (e.g.,
   `⟨zpoly_ne_zero_of_monic h, zpoly_primitive_of_monic h,
     zpoly_normalize_factor_sign_of_monic h⟩`).
   The three inline blocks at lines 4479-4491 / 4497-4509 /
   4510-4515 would collapse to three one-liners; the umbrella's
   body shrinks from ~50 lines to ~5.

3. **Projected net diff.** Estimate insertions / deletions for
   `Basic.lean` after the inversion: the four helper bodies grow
   (from `.2.1` / `.2.2` destructure projections to direct
   `Monic → ...` proofs), the umbrella body shrinks, and the
   downstream sites that already call `zpoly_primitive_of_monic` /
   `zpoly_normalize_factor_sign_of_monic` are unaffected (their
   contract is unchanged). Cite at least the rough magnitudes.

4. **Verdict.** Recommend one of:
   - **(a)** Proceed with the inversion as a single feature issue —
     justify by quoting the projected net diff and the substrate-
     lemma availability from §1. The inline-drafted follow-up
     should use the canonical Current state / Deliverables /
     Library placement / Context / Verification body shape.
   - **(b)** Split the inversion into multiple sub-issues —
     typically one per inverted helper plus one umbrella-rewrite
     issue. Draft titles and one-line scopes for each.
   - **(c)** Recommend leaving the content-1 and normalizeFactorSign
     inline blocks as-is. Justify by either (i) absence of suitable
     substrate / unacceptable substrate cost, or (ii) the umbrella's
     body is small enough post-#5046 that the inversion's
     readability gain does not justify the cluster restructure.

   The verdict must be one of (a) / (b) / (c) and must be
   reproducible from §1-§3 alone — do **not** introduce new
   considerations in the verdict that were not surfaced in the
   feasibility sections.

## Library placement

This is a read-only review; no Lean source edits.

- **File path the deliverables land in.** Only this issue (an audit
  comment on the GitHub issue) and a per-turn progress file under
  `progress/<UTC>_<short>.md`. No `HexBerlekampZassenhausMathlib/`
  edits.
- **SPEC § that governs it.** The audited cluster lives in the
  BZMathlib substrate covered by
  `SPEC/Libraries/hex-berlekamp-zassenhaus-mathlib.md`. The audit
  itself touches no SPEC.
- **Single-library?** Yes — only `Basic.lean` is in scope.
- **Forward-reference / hoist risk?** None — the audit is read-only.
  The follow-up issue this audit drafts may have forward-reference
  consequences (the inverted helpers' bodies may need substrate
  not currently in scope above the cluster); those must be flagged
  in §1 of the audit so the next planner can sequence a hoist or
  substrate-extraction prerequisite.

## Context

- Original feasibility audit: #5040 (closed, audit comment at
  `https://github.com/kim-em/hex/issues/5040#issuecomment-4480032088`).
  The verdict-(c) commentary about content-1 / normalizeFactorSign
  is the direct upstream of this issue.
- In-flight partial hoist: #5046 (depends on #5042) — handles only
  the `hcs_pos` block at `Basic.lean:4479-4491`. This issue's
  feasibility analysis must run against the file *after* #5046
  merges, since the content-1 / normalizeFactorSign block line
  numbers may shift slightly.
- Cluster helper definitions:
  - `zpoly_size_pos_of_monic` — `Basic.lean` (post-#5042 location
    ~5327; post-#5046 location above 4473).
  - `zpoly_lc_pos_of_monic` — `Basic.lean:6742` (per #5040 audit).
  - `zpoly_primitive_of_monic` — destructure of
    `monic_primitive_sign_normalized_of_monic`.
  - `zpoly_normalize_factor_sign_of_monic` — destructure of
    `monic_primitive_sign_normalized_of_monic`.
- The umbrella theorem itself:
  `HexBerlekampZassenhausMathlib/Basic.lean:4473`,
  `theorem monic_primitive_sign_normalized_of_monic`.
- SPEC reading: `SPEC/Libraries/hex-berlekamp-zassenhaus-mathlib.md`,
  plus `SPEC/Libraries/hex-poly-z.md` if §1's substrate-lemma
  scan turns out to need a `Hex.ZPoly`-level helper.
- Peer audits in the same cascade and shape: #5031, #5039
  (Monic-route cluster), #5041 (`normalizeForFactor` primitivity
  micro-cluster), #5040 (immediate predecessor).

depends-on: #5046

## Verification

- `python3 scripts/check_dag.py` exits 0.
- `git diff --check` clean; `git diff origin/main` empty for any
  file outside `progress/`.
- Audit comment posted on this issue covering all four sections
  (§1-§3 feasibility, §4 verdict).
- The verdict in §4 is one of (a) / (b) / (c) and is grounded in
  §1-§3.
- If §4 is (a) or (b), the inline-drafted follow-up issue body uses
  the canonical Current state / Deliverables / Library placement /
  Context / Verification shape so the next planner cycle can post
  it via `coordination plan` with minimal editing. The follow-up
  must `depends-on: #5046` (and on this issue, if its closure is
  the audit deliverable).
- No `sorry` / `axiom` / `native_decide` / `TODO` / `FIXME`
  introduced in any code file (vacuous: audit edits no code).

**Comment by kim-em** [comment]
Session: `a1ee9c30-dc22-4b96-a710-0837abea8894` Branch: `agent/a1ee9c30`

**Comment by kim-em** [comment]
## Audit — feasibility of monic_primitive_sign_normalized_of_monic cluster inversion

Post-#5046 location reference (commit `45a01d34` on `main`):
umbrella at `Basic.lean:4487`, `zpoly_size_pos_of_monic` at `Basic.lean:4458`,
remaining cluster (`zpoly_ne_zero_of_monic`, `zpoly_lc_pos_of_monic`,
`zpoly_primitive_of_monic`, `zpoly_normalize_factor_sign_of_monic`)
at `Basic.lean:6714-6736`.

### §1. Inverted-cluster proof bodies

- **`zpoly_size_pos_of_monic`** — already self-contained, hoisted by #5046
  to `Basic.lean:4458`. Body uses only `Nat.eq_zero_or_pos`,
  `Array.back?_eq_getElem?`, and the `Monic` definitional unfold
  `Hex.DensePoly.leadingCoeff f = (1 : Int)`. Unaffected by inversion. ✅

- **`zpoly_lc_pos_of_monic`** (`Basic.lean:6722`) — current body is
  ```
  rw [show Hex.DensePoly.leadingCoeff f = (1 : Int) from h]
  decide
  ```
  Self-contained, no dependency on the umbrella. Unaffected by inversion. ✅

- **`zpoly_primitive_of_monic`** (`Basic.lean:6729`) — currently
  `(monic_primitive_sign_normalized_of_monic h).2.1` (2 lines).
  Under inversion, the body becomes the umbrella's current content-1 case
  (`Basic.lean:4500-4512`, ~13 lines), which derives `Hex.ZPoly.content f = 1`
  from:
  - `hlead : Hex.DensePoly.leadingCoeff f = (1 : Int) := h` (1 line, definitional)
  - `hcs_pos : 0 < f.coeffs.size := zpoly_size_pos_of_monic h` (1 line, calls hoisted helper)
  - `hsize_pos : 0 < f.size := hcs_pos` (1 line, coercion)
  - `hcoeff_last : f.coeff (f.size - 1) = 1`, via
    `Hex.DensePoly.leadingCoeff_eq_coeff_last` (defined at
    `HexPoly/Euclid.lean:34`) + `hlead` (~3 lines)
  - `hdvd_one : Hex.ZPoly.content f ∣ 1`, via
    `Hex.DensePoly.content_dvd_coeff` (`HexPoly/Euclid.lean:3896`) + `hcoeff_last` (~3 lines)
  - `hcontent_nonneg`, via unfold + `Int.natCast_nonneg` (~2 lines)
  - `Int.isUnit_iff.mp (isUnit_of_dvd_one hdvd_one)` case split (~3 lines)

  **Substrate availability at new location** (just above umbrella, ~line 4486):
  all four substrate names (`leadingCoeff_eq_coeff_last`, `content_dvd_coeff`,
  `Hex.ZPoly.content`, `Hex.DensePoly.content`) are defined in upstream
  modules (`HexPoly/Euclid.lean`, `HexPolyZ/Basic.lean:29`) and the umbrella
  already uses them at line 4487+, so they are in scope at line 4486. ✅
  No new substrate lemma required; no `HexPolyZ` extension needed.

- **`zpoly_normalize_factor_sign_of_monic`** (`Basic.lean:6734`) — currently
  `(monic_primitive_sign_normalized_of_monic h).2.2` (2 lines).
  Under inversion, the body becomes the umbrella's current
  normalizeFactorSign case (`Basic.lean:4513-4518`, ~6 lines):
  ```
  have hlead : Hex.DensePoly.leadingCoeff f = (1 : Int) := h
  unfold Hex.normalizeFactorSign
  have hnot_neg : ¬ Hex.DensePoly.leadingCoeff f < 0 := by rw [hlead]; decide
  simp [hnot_neg]
  ```
  Substrate: only the definitional `Hex.normalizeFactorSign`
  (`HexBerlekampZassenhaus/Basic.lean:1258`), available throughout Basic.lean
  (used as early as line 362). ✅ No new substrate.

### §2. Inverted umbrella body

The umbrella body (`Basic.lean:4487-4518`, ~32 lines counting signature and
the `refine` block) collapses to:

```
theorem monic_primitive_sign_normalized_of_monic
    {factor : Hex.ZPoly} (hfactor_monic : Hex.DensePoly.Monic factor) :
    Hex.DensePoly.Monic factor ∧
      Hex.ZPoly.content factor = 1 ∧
        Hex.normalizeFactorSign factor = factor :=
  ⟨hfactor_monic,
    zpoly_primitive_of_monic hfactor_monic,
    zpoly_normalize_factor_sign_of_monic hfactor_monic⟩
```

Body proper shrinks from ~25 tactic lines to a 3-line anonymous-constructor
term. Signature unchanged; docstring unchanged.

Call-site impact: zero. Per `grep -rn monic_primitive_sign_normalized_of_monic
--include="*.lean" .`, the umbrella has exactly two non-docstring callers,
both being the destructure-projection corollaries themselves
(`Basic.lean:6731`, `6736`). Every downstream consumer already goes through
the corollaries, not the umbrella; the bundle exists *solely* for the two
corollaries to project. Under inversion, the umbrella retains its public
API (Monic ∧ content=1 ∧ normalizeFactorSign=id) for any future bundled
consumer but stops being the source of truth.

### §3. Projected net diff

Per-component line accounting on `Basic.lean`:

| Component | Current | Post-inversion | Δ |
|---|---|---|---|
| Umbrella body (4487-4518) | ~32 | ~9 (sig + docstring + 3-line term) | **−23** |
| `zpoly_primitive_of_monic` body | 2 (destructure) | ~13 (first-class) | **+11** |
| `zpoly_normalize_factor_sign_of_monic` body | 2 (destructure) | ~6 (first-class) | **+4** |
| Hoist cost | — | move 2 helpers (~10 lines incl. docstrings) from 6729-6736 to ~4486 | net 0 |
| **Total** | | | **≈ −8 lines** |

Net code reduction is modest (~8 lines on a 16-error / 3-sorry baseline file),
but the structural win is significant:
- Helpers stop being destructure-projection stubs of an opaque bundle.
- The umbrella becomes a thin aggregator with three named components,
  matching its docstring intent.
- All ~17 downstream callsites of `zpoly_primitive_of_monic` /
  `zpoly_normalize_factor_sign_of_monic` (callsites at `Basic.lean:5591`,
  `7828`, `7831`, `9537`, `9542`, `10076`, `10078`, `10188`, `10190`,
  `13587`, `13589`, `14885`) are unaffected — signatures preserved.
- The setup-sharing cost (`hlead`, `hcoeff_last` derived twice across the
  two new helper bodies) is one `have hlead := h` line per helper plus
  the `hcoeff_last` setup once in `zpoly_primitive_of_monic`. Trivial
  duplication.

Hoist sequencing: only the two destructure helpers need to move above the
umbrella; `zpoly_ne_zero_of_monic` (`Basic.lean:6714`) and
`zpoly_lc_pos_of_monic` (`Basic.lean:6722`) can remain in their post-umbrella
cluster since their bodies don't depend on the umbrella.

### §4. Verdict — (a) Proceed with inversion as a single feature issue

Justification:
- Substrate fully available at the new location with zero new lemmas (§1).
- Net ~−8 lines plus structural cohesion gain; no callsite churn (§3).
- Umbrella has no non-corollary callers (§2): the bundle is pure overhead.
- The two helpers are tightly coupled (single umbrella body to collapse,
  single hoist target), so splitting into separate issues per verdict (b)
  would force two passes over the same ~32-line umbrella block. (a) is the
  natural granularity.

#### Inline-drafted follow-up issue body

**Title**: `BZMathlib: invert monic_primitive_sign_normalized_of_monic cluster — convert content-1 and normalizeFactorSign destructure corollaries to first-class proofs and collapse umbrella body`

---

## Current state

Post-#5046 (commit `45a01d34`), the umbrella
`monic_primitive_sign_normalized_of_monic` at `Basic.lean:4487` has a
~32-line body splitting into two inline case proofs:

- content-1 case at `Basic.lean:4500-4512` (~13 lines)
- normalizeFactorSign case at `Basic.lean:4513-4518` (~6 lines)

The cluster helpers `zpoly_primitive_of_monic` (`Basic.lean:6729`) and
`zpoly_normalize_factor_sign_of_monic` (`Basic.lean:6734`) are 2-line
destructure-projection corollaries (`(monic_primitive_sign_normalized_of_monic h).2.1`
and `.2.2`).

Per the #5050 audit comment, the umbrella has no non-corollary callers in
the entire codebase (only references outside the two corollaries are
docstring mentions at lines 4551, 8039, 9520). Every downstream consumer
uses the helpers, not the bundle. The bundle exists solely to be
destructured.

## Deliverables

1. **Hoist** `zpoly_primitive_of_monic` and `zpoly_normalize_factor_sign_of_monic`
   from `Basic.lean:6729-6736` to immediately above
   `monic_primitive_sign_normalized_of_monic` (currently at `Basic.lean:4487`,
   between the existing `zpoly_size_pos_of_monic` at 4458 and the umbrella).
   Leave `zpoly_ne_zero_of_monic` (`Basic.lean:6714`) and
   `zpoly_lc_pos_of_monic` (`Basic.lean:6722`) in place — their bodies are
   already self-contained.

2. **Convert the two helpers to first-class proofs** by moving the umbrella's
   inline case bodies into them:
   - `zpoly_primitive_of_monic` body: ~13 lines, copy `Basic.lean:4492-4512`
     minus the outer `refine` (`hlead`, `hcs_pos := zpoly_size_pos_of_monic h`,
     `hsize_pos`, `hcoeff_last` via `leadingCoeff_eq_coeff_last`, then
     `content_dvd_coeff` + `Int.isUnit_iff` + content nonneg).
   - `zpoly_normalize_factor_sign_of_monic` body: ~6 lines, copy
     `Basic.lean:4513-4518` (the normalizeFactorSign case proper).

3. **Collapse the umbrella body** to a 3-line anonymous-constructor term
   (signature and docstring unchanged):
   ```
   theorem monic_primitive_sign_normalized_of_monic
       {factor : Hex.ZPoly} (hfactor_monic : Hex.DensePoly.Monic factor) :
       Hex.DensePoly.Monic factor ∧
         Hex.ZPoly.content factor = 1 ∧
           Hex.normalizeFactorSign factor = factor :=
     ⟨hfactor_monic,
       zpoly_primitive_of_monic hfactor_monic,
       zpoly_normalize_factor_sign_of_monic hfactor_monic⟩
   ```

4. Verify zero churn at the ~17 downstream callsites of
   `zpoly_primitive_of_monic` / `zpoly_normalize_factor_sign_of_monic`
   (callsites listed in #5050 §3); their signatures and contracts are
   unchanged.

## Library placement

- **File path**: `HexBerlekampZassenhausMathlib/Basic.lean` only.
- **SPEC §**: governed by
  `SPEC/Libraries/hex-berlekamp-zassenhaus-mathlib.md`. No SPEC edit.
- **Single-library?** Yes.
- **Forward-reference / hoist risk**: none. Substrate (`leadingCoeff_eq_coeff_last`
  at `HexPoly/Euclid.lean:34`, `content_dvd_coeff` at
  `HexPoly/Euclid.lean:3896`, `Hex.DensePoly.content` at
  `HexPoly/Euclid.lean:3838`, `Hex.ZPoly.content` at `HexPolyZ/Basic.lean:29`,
  `Hex.normalizeFactorSign` at `HexBerlekampZassenhaus/Basic.lean:1258`) is
  defined upstream of Basic.lean and already used by the umbrella body, so
  it is in scope at the new helper locations.

## Context

- Predecessor audit: this issue's parent #5050 (feasibility analysis).
- Partial hoist already merged: #5046 (zpoly_size_pos_of_monic only).
- Cluster siblings staying in place: `zpoly_ne_zero_of_monic` (6714),
  `zpoly_lc_pos_of_monic` (6722).
- Peer audits in the same cascade: #5031, #5039 (Monic-route cluster),
  #5040 (immediate predecessor — verdict-(c) deferred this inversion).

depends-on: #5050

## Verification

- `lake build` succeeds with the documented 16-error / 3-sorry baseline
  byte-identical modulo the line shifts.
- `python3 scripts/check_dag.py` exits 0.
- `git diff --check` clean.
- No new `sorry` / `axiom` / `native_decide` / `TODO` / `FIXME`.
- `git diff --stat origin/main` shows ~−8 net lines on
  `HexBerlekampZassenhausMathlib/Basic.lean` (umbrella shrink dominates).
- Callsite-count invariants:
  - `grep -c "zpoly_primitive_of_monic" Basic.lean` unchanged
  - `grep -c "zpoly_normalize_factor_sign_of_monic" Basic.lean` unchanged
  - `grep -c "monic_primitive_sign_normalized_of_monic" Basic.lean`:
    drops by 2 (the two corollary call sites at the old 6731, 6736
    disappear; the docstring references at 4551, 8039, 9520 stay).
